US06416733B1
Step C: Preparation of 2-((tert-butoxy)carbonylamino)ethyl-3-((7-(3-(2-ethyl-4-(4-fluorophenyl)-5-(phenylmethoxy)phenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propanoate
7-(3-(2-ethyl-4-(4-flurophenyl)-5-(phenylmethoxy)phenoxy)propoxy)-8-propylchromane-2-carboxylic acid (200 mg, 0.33 mmol), 2-[N-t-butoxycarbonylaminoethyl]-3-aminopropionate acetate salt (122 mg, 0.42 mmol), hydroxybenzotriazole (76.6 mg, 0.50 mmol), HBTU (190 mg, 0.50 mmol), and diisopropylethylamine (1.32 mmol, 233 μL) were added to dry DMF (1.7 mL) and stirred under nitrogen for 24 hours. An additional 50% of HOBT, HBTU, and diisopropylethylamine were added and the reaction stirred another 24 hours. The mixture was added to water (7 mL) and extracted with ethyl acetate. The combined organics were washed with 0.1N HCl, bicarbonate, and brine, dried over MgSO4, filtered, and concentrated under vacuum. The resulting oil was purified by flash chromatography (hexane/ethyl acetate) to afford 120 mg of product. Mass Spec (EI) m/z=830.6 (M+NH4).

reactant | 7-(3-(2-ethyl-4-(4-flurophenyl)-5-(phenylmethoxy)phenoxy)propoxy)-8-propylchromane-2-carboxylic acid | 0.33 mmol, 200 mg | C(C)C1=C(OCCCOC2=CC=C3CCC(OC3=C2CCC)C(=O)O)C=C(C(=C1)C1=CC=C(C=C1)F)OCC1=CC=CC=C1 | C37H39FO6
reactant | 2-[N-t-butoxycarbonylaminoethyl]-3-aminopropionate acetate salt | 0.42 mmol, 122 mg | C(C)(=O)O.C(C)(C)(C)OC(=O)NCCC(C(=O)O)CN
reactant | hydroxybenzotriazole | 0.50 mmol, 76.6 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | HBTU | 0.50 mmol, 190 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.32 mmol, 233 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | water | 7 mL | O | H2O
solvent | DMF | 1.7 mL | CN(C)C=O | C3H7NO
product | 2-((tert-butoxy)carbonylamino)ethyl-3-((7-(3-(2-ethyl-4-(4-fluorophenyl)-5-(phenylmethoxy)phenoxy)propoxy)-8-propylchroman-2-yl)carbonylamino)propanoate | 120 mg | C(C)(C)(C)OC(=O)NCCOC(CCNC(=O)C1OC2=C(C(=CC=C2CC1)OCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)CC)CCC)=O | C47H57FN2O9
